US07504399B2
tert-Butyl 4-(2-cyano-1-phenylvinyl)piperazine-1-carboxylate (600 mg) was dissolved in a 10% solution of TFA in methylene chloride (11 ml). After 1 hour at room temperature, the reaction mixture was partitioned between saturated NaHCO3 (20 ml) and EtOAc (20 ml), and the aqueous phase was extracted with EtOAc (3×20 ml). Then the combined organic layer was dried over MgSO4 and concentrated to offer a residue which was purified using silica gel chromatography to give 3-phenyl-3-(piperazin-1-yl)acrylonitrile. MS m/z: (M+H)+ calcd for C13H16N3 214.13, found 214.15. Retention time 0.91 min (column E).

reactant | tert-Butyl 4-(2-cyano-1-phenylvinyl)piperazine-1-carboxylate | 600 mg | C(#N)C=C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 11 ml | C(Cl)Cl | CH2Cl2
product | 3-phenyl-3-(piperazin-1-yl)acrylonitrile | C1(=CC=CC=C1)C(=CC#N)N1CCNCC1 | C13H15N3
